US08859591B2
Diisopropyl azodicarboxylate (880 μL, 4.47 mmol) was added to a room temperature solution of Intermediate (20) (929 mg, 4.46 mmol), 4-iodophenol (987 mg, 4.49 mmol), and triphenylphosphine (1.17 g, 4.46 mmol) in tetrahydrofuran (22 mL). The reaction was stirred at room temperature overnight. The reaction was then diluted with diethylether (30 mL). The mixture was washed successively with 1N NaOH and saturated ammonium chloride. The organic layer was dried over magnesium sulfate, filtered and concentrated. Purification by column chromatography gave (+/−)-methyl 4-(1-(4-iodophenoxy)butyl)benzoate (1.38 g, 75%) as a colorless oil. 1H NMR (400 MHz, CDCl3, δ): 7.95-8.00 (m, 2H), 7.39-7.45 (m, 2H), 7.32-7.38 (m, 2H), 6.52-6.59 (m, 2H), 5.03-5.10 (m, 1H), 3.88 (s, 3H), 1.89-2.01 (m, 1H), 1.70-1.82 (m, 1H), 1.33-1.52 (m, 2H), 0.89-0.95 (m, 3H).

reactant | Diisopropyl azodicarboxylate | 4.47 mmol, 880 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 4-iodophenol | 4.49 mmol, 987 mg | IC1=CC=C(C=C1)O | C6H5IO
reactant | triphenylphosphine | 4.46 mmol, 1.17 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydrofuran | 22 mL | O1CCCC1 | C4H8O
solvent | diethylether | 30 mL | C(C)OCC | C4H10O
product | (+/−)-methyl 4-(1-(4-iodophenoxy)butyl)benzoate | 1.38 g, 75% | IC1=CC=C(OC(CCC)C2=CC=C(C(=O)OC)C=C2)C=C1 | C18H19IO3
